US06797726B1
In 60 mL of toluene is dissolved 19.2 g of tert-butyl 6-(2-ethoxy-2-oxoethyl)-5,7-difluoro-3-oxo-2,3-dihydrobenzo[b]thiophene-2-carboxylate, to which is added 0.96 g of p-toluenesulfonic acid monohydrate. The mixture is heated under reflux for 2.5 hours. Water is added to the reaction mixture, and the organic layer is separated. The organic layer is washed with water, saturated aqueous solution of sodium bicarbonate and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is dissolved in 100 ml of methanol, 0.97 g of sodium boron hydride is added, and the mixture thus formed is stirred at ambient temperature for 30 minutes. Then, 5.88 g of p-toluenesulfonic acid monohydrate is added and the mixture thus formed is heated under reflux for one hour. The reaction mixture is concentrated under reduced pressure, water and ethyl acetate are added to the residue, and the organic layer is separated. The organic layer is washed with water, saturated aqueous solution of sodium bicarbonate and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent: hexane:ethyl acetate=50:1 to 20:1) to obtain 1.98 g of ethyl 2-(5,7-difluorobenzo[b]thiophen-6-yl)acetate as an oily product.

reactant | tert-butyl 6-(2-ethoxy-2-oxoethyl)-5,7-difluoro-3-oxo-2,3-dihydrobenzo[b]thiophene-2-carboxylate | 19.2 g | C(C)OC(CC=1C(=CC2=C(SC(C2=O)C(=O)OC(C)(C)C)C1F)F)=O | C17H18F2O5S
reactant | p-toluenesulfonic acid monohydrate | 0.96 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Water | O | H2O
reactant | sodium boron hydride | 0.97 g | B.[Na]
reactant | p-toluenesulfonic acid monohydrate | 5.88 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 100 ml | CO | CH4O
product | ethyl 2-(5,7-difluorobenzo[b]thiophen-6-yl)acetate | 1.98 g | FC1=CC2=C(SC=C2)C(=C1CC(=O)OCC)F | C12H10F2O2S
